US05220042
126 Milligrams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in 2 ml of anhydrous tetrahydrofuran, then 0.2 ml of hexamethylphosphoric triamide was added to the solution and whole mixture was cooled to -78° C. in a dry ice-acetone bath. Under argon gas stream conditions, 0.5 ml of sec-butyllithium was added dropwise to the reaction mixture and stirred for 30 minutes. Then 140 mg of 2-bromoethyl tert-butyldimethylsilyl ether and 70 mg of anhydrous sodium iodide were added to the reaction mixture and was stirred at -78° C. for 4 hours, then the temperature was elevated to room temperature. The solvent was removed by evaporation under reduced pressure, then to the residue thus obtained were added 50 ml of benzene and 50 ml of diethyl ether, the organic layer was washed three times with 30 ml of water, then washed three times with 30 ml of a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure, then the residue was treated on a silica gel thin layer chromatography, and purified by developing with 30% ethyl acetate-n-hexane mixed solvent to yield 15.0 mg of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl tert-butyldimethylsilyl ether. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | sec-butyllithium | 0.5 ml | C(C)(CC)[Li]
reactant | 2-bromoethyl tert-butyldimethylsilyl ether | 140 mg | [Si](C)(C)(C(C)(C)C)OCCBr | C8H19BrOSi
reactant | sodium iodide | 70 mg | [I-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | hexamethylphosphoric triamide | 0.2 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl tert-butyldimethylsilyl ether | 15.0 mg | [Si](C)(C)(C(C)(C)C)OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C20H36O7Si
